US07427612B2
(a) 4-(4-Chloro-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
A solution of 11 mmol of 2,4-dichlorotriazine (WO 02/083654) in 20 ml of acetonitrile was chilled and treated with 11 mmol of triethylamine and 11 mmol of N-BOC-piperazine. The reaction mixture was stirred for 2 hours at 0° C. then for 2 hours at room temperature. Addition of 100 ml brine and extraction with ethyl acetate yielded the crude product which was purified through trituration in ethyl acetate. MS (m/e): 300.3 (MH+, 100%)

reactant | 2,4-dichlorotriazine | 11 mmol | ClN1NC=CC(=N1)Cl | C3H3Cl2N3
reactant | triethylamine | 11 mmol | C(C)N(CC)CC | C6H15N
reactant | N-BOC-piperazine | 11 mmol | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 4-(4-Chloro-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)Cl | C12H18ClN5O2
